US07238716B2
A mixture of 2-[5-methoxymethoxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile (1.83 g), 10% sulfuric acid (5 mL) and tetrahydrofuran (50 mL) was heated under reflux for 3 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give crystals (1.13 g, 68%) of 2-[5-hydroxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 185-186° C.

reactant | 2-[5-methoxymethoxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile | 1.83 g | COCOC=1C=CC(=C(C1)CC#N)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C28H26N2O5
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-[5-hydroxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile | 1.13 g, 68% | OC=1C=CC(=C(C1)CC#N)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H22N2O4
